US07101903B2
{2-[(Acetyloxy)methyl]-1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid
Oxalyl chloride (1.05 mL) was added dropwise to a stirring solution of {1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-2-yl}methyl acetate (0.515 g) in THF (17 mL) at room temperature over a period of 5 minutes under a nitrogen atmosphere. After the reaction mixture was stirred at room temperature for 4 hours, the reaction was quenched carefully with water. The aqueous mixture was extracted with ethyl acetate. The extract was washed with water, and brine, dried over anhydrous magnesium sulfate, and concentrated to give the title compound as a light brown solid, mp: 79–80° C. Mass spectrum (ESI, [M−H]−) m/z 524. 1HNMR (400 MHz, DMSO-d6): δ 14.50 (br s, 1H), 8.20 (s, 1H), 7.74 (d, 2H, J=8.55 Hz), 7.70 (d, 1H, J=8.69 Hz), 7.62 (d, 1H, J=8.55 Hz), 7.47 (d, 2H, J=8.25 Hz), 7.15 (d, 2H, J=7.88 Hz), 6.99 (d, 2H, J=7.78 Hz), 5.64 (s, 2H), 5.53 (s, 2H), 2.25 (s, 3H), and 1.83 ppm (s, 3H).

reactant | Oxalyl chloride | 1.05 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | {1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-2-yl}methyl acetate | 0.515 g | C(C)(=O)OCC=1N(C2=CC=C(C=C2C1)C1=CC=C(C=C1)OC(F)(F)F)CC1=CC=C(C=C1)C | C26H22F3NO3
reactant | THF | 17 mL | C1CCOC1 | C4H8O
product | {2-[(Acetyloxy)methyl]-1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid | C(C)(=O)OCC=1N(C2=CC=C(C=C2C1C(C(=O)O)=O)C1=CC=C(C=C1)OC(F)(F)F)CC1=CC=C(C=C1)C | C28H22F3NO6
